US05696110
Sodium hydride (28 g of a 55% oil dispersion) was added in portions to a stirred, cooled (4° C.) solution of isatoic anhydride (100 g) and iodoethane (104 g) in anhydrous dimethylformamide (600 ml). The reaction mixture was stirred at room temperature for 3 hours. The solvent was evaporated and the residue partitioned between ethyl acetate (1 l) and water (500 ml). The organic layer was separated, washed with brine (2×100 ml), dried (sodium sulphate) then evaporated to give a semi-solid which was triturated with diethyl ether to afford N-ethyl isatoic anhydride as a tan powder (70 g). N-Ethyl isatoic anhydride (64 g), glycine (27 g) and glacial acetic acid (500 ml) were heated at reflux for 4 hours. The solvent was evaporated and the residue was partitioned between dichloromethane (1.5 l) and saturated sodium hydrogen carbonate solution. The organic layer was separated, washed with 1M sodium hydroxide (200 ml), dried (magnesium sulphate), evaporated then the residue triturated with diethyl ether to afford the title compound as a beige solid (53 g). mp 169°-170° C. (ethyl acetate). Rf 0.50 in dichloromethane/methanol (9:1) on silica plates. 1H NMR (360 MHz, CDCl3) δ1.21 (3H, t, J=7 Hz), 3.73-3.83 (3H, m), 4.13-4.22 (1H, m), 6.97 (1H, broad s), 7.26-7.36 (2H, m), 7.56 (1H, ddd, J1 =2 Hz, J2 =J3 =8 Hz), 7.89 (1H, dd, J1 =2 Hz, J2 =8 Hz). Found: C, 64.25; H, 5.92; N, 13.67. C11H12N2O2 requires C, 64.69; H, 5.92; N, 13.72%.

reactant | Sodium hydride | [H-].[Na+]
reactant | isatoic anhydride | 100 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | iodoethane | 104 g | ICC | C2H5I
solvent | dimethylformamide | 600 ml | CN(C=O)C | C3H7NO
product | N-ethyl isatoic anhydride | 70 g | C(C)N1C=2C(C(=O)OC1=O)=CC=CC2 | C10H9NO3
